US04404207
To a suspension of 1.0 g of 8-amino-6,7-dihydro-9-fluoro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid in 20 ml of warm galcial acetic acid was added 1.0 g 2,5-dimethoxytetrahydrofuran. The mixture was heated at reflux for 30 minutes. The product which precipitated was separated by filtration and washed with water to provide yellowish-white crystals of 6,7-dihydro-9-fluoro-5-methyl-1-oxo-8-(1-pyrryl)-1H,5H-benzo[ij]quinolizine-2-carboxylic acid hydrate, m.p. 300° C. Analysis: Calculated for C18H15FN2O3.1/3H2O: %C, 65.0; %H, 4.7; %N, 8.4; Found: %C, 64.8; %H, 4.5; %N, 8.4. The structural assignment was confirmed by infrared and nuclear magnetic resonance spectral analyses.

reactant | 8-amino-6,7-dihydro-9-fluoro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 1.0 g | NC1=C(C=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O)F | C14H13FN2O3
reactant | 2,5-dimethoxytetrahydrofuran | 1.0 g | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 6,7-dihydro-9-fluoro-5-methyl-1-oxo-8-(1-pyrryl)-1H,5H-benzo[ij]quinolizine-2-carboxylic acid hydrate | O.FC1=C(C=2CCC(N3C=C(C(C(C23)=C1)=O)C(=O)O)C)N1C=CC=C1 | InChI=1S/C18H15FN2O3.H2O/c1-10-4-5-11-15-12(17(22)13(18(23)24)9-21(10)15)8-14(19)16(11)20-6-2-3-7-20;/h2-3,6-10H,4-5H2,1H3,(H,23,24);1H2
